US04482714
3-Methyl-1H-indole-1-butanoic Acid (X: R1 =H and R2 =Me)
3-Methylindole (13.1 g; 1 eq) and sodium hydride (5 g of 50% suspension-1 eq) were melted together in a 3-neck round bottom flask immersed in 100° C. oil bath until evolution of hydrogen gas ceased. The mixture was cooled down and dissolved in 250 mL of dry dimethylformamide. Butyrolactone (17.2 g-2 eq) was added and the solution was refluxed for 7 hr and poured on ice. The mixture was extracted with diethyl ether, and the acid was liberated with 10% hydrochloric acid solution. The mixture was extracted with diethyl ether. Evaporation of the extract gave a residue which was chromatographed on silica gel using 10% (v/v) ethyl acetate in benzene. Evaporation of the appropriate eluates gave 5.5 g of the title compound, mp 82°-84° C.

reactant | 3-Methylindole | 13.1 g, 1 eq | CC1=CNC2=CC=CC=C12 | C9H9N
reactant | sodium hydride | 5 g, 1 eq | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | Butyrolactone | C1(CCCO1)=O | C4H6O2
solvent | dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
product | 3-Methyl-1H-indole-1-butanoic Acid | 5.5 g | CC1=CN(C2=CC=CC=C12)CCCC(=O)O | C13H15NO2
